Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Ativan / Motrin / Altace / azithromycin / amiodarone
 
Attending: ___.
 
Chief Complaint:
Pulseless legs
 
Major Surgical or Invasive Procedure:
___ thrombectomy and relining of EVAR, repair left femoral 
aneurysm, bilateral fasciotomy
___ left subclavian stent placment
___ bedside debridement of fasciotomies and R calf and heel 
ulcer
___ Debridement of right posterior calf and right heel in 
the operating room
___ Guillotine Right Above the Knee Amputation 
___ Debridement and Closure R AKA
___ Mesenteric Angiogram, SMA stenting
___ PEG placement
___ Tracheostomy placement
___ Exploratory laparotomy, closure gastrostomy, J-tube 
placement
___ Neck exploration, replacement of tracheostomy, repair 
thyroid bleeding
 
History of Present Illness:
History Present Illness: Ms. ___ is a ___ with a history
of aortic thrombi s/p aortobifemoral stent placement, CHF (last
EF <45%), PVD, HOLD, HTN, CKD, COPD, afib on coumadin, who comes
in with bilateral pulseless lower extremities since 1pm on day 
of
admission.  She has decreased sensation and motor function R>L
which has worsened from her baseline of decreased RLE motor
function.  She also has increased pain and mottling of the BLE
R>L which is new.  She has multiple open wounds on her legs and
feet including a large R heel ulcer which reportedly developed
while being in a walking boot or immobilizer.  She has multiple
skin tears which occur with minimal mechanical trauma.  She
reports that she was minimally ambulatory with assist but has
been unable to ambulate for the past ___ days.  She has a 
history
of an aortobifemoral stent which was placed endovascularly in
___ for aortic thrombus as well as bilateral femoral
artery cutdowns with thrombectomy for clot at the same time.  
She
denies any other vascular procedures but neither she nor the
husband are positive and the records from the outside facility
are incomplete.  She is transferred emergently from ___ for evaluation of the pulseless legs.  
 
VASCULAR ROS:
Other: As HPI, multiple BLE ulcers and skin tears . 
 

 
Past Medical History:
 
VASCULAR HISTORY: Endovascular Repair: Aortobifem for clot. 
PAST MEDICAL HISTORY: aortobifemoral stent placement, CHF (last
EF <45%), PVD, HOLD, HTN, CKD, COPD, afib on coumadin, previous
aortic clots
 
PAST SURGICAL HISTORY: bilateral total hip replacement, 
bilateral
total knee replacement, endovacular aortobifem stent, bilateral
femoral artery cutdowns
 

 
Social History:
___
Family History:
non contrib 
 
Pertinent Results:
CTA AORTA/BIFEM/ILIAC RUNOFF W/W&WO C AND RECONS Study Date of 
___  

CT CHEST:  The thyroid gland appears heterogeneous, possibly 
containing 
subcentimeter hypodense lesions inferiorly (2, 12), which could 
be assessed by ultrasound if not already performed.  There is 
moderate-to-severe diffuse atherosclerotic calcification.  The 
heart demonstrates severe biatrial enlargement and multivessel 
coronary arterial calcifications as well as mitral annular and 
aortic valve calcifications.  A moderate-sized pericardial 
effusion is present inferior to the heart.  A small epicardial 
lymph node is calcified.  There is pretracheal and precarinal 
lymphadenopathy measuring up to 14 mm.  There is no axillary 
lymphadenopathy.  There are bilateral pleural effusions, 
moderate on the right and small on the left, with associated 
compressive atelectasis.  Mild bronchiectasis is seen in the 
right lung base.  Patchy peribronchovascular opacities in the 
right lower lobe, in combination 
with layering fluid in the upper esophagus, suggest aspiration. 
  
CT ABDOMEN:  Note is made of reflux of contrast into the hepatic 
veins, 
compatible with right heart insufficiency.  The liver 
demonstrates no focal lesion.  The spleen and pancreas appear 
within normal limits.  The adrenal glands appear thickened, 
without definite nodularity.  The left kidney demonstrates 
delayed nephrogram and scattered areas of wedge-shaped 
transcortical hypoattenuation, consistent with renal infarction. 
 The right kidney demonstrates relatively preserved nephrogram, 
however, contains a somewhat wedge-shaped hypodensity in the 
lower pole (3A, 140), possibly an additional area of infarct. 
Small and large bowel loops are normal in caliber. There is no 
free air or free fluid.  Prominent retroperitoneal lymph nodes 
are noted. 
  
CT PELVIS:  Assessment is highly limited due to streak artifact 
from bilateral hip arthroplasty.  Allowing for such, the bladder 
and rectum appear within normal limits. 
  
CTA:  There is moderate amount of thrombosis within the proximal 
left 
subclavian artery near the origin (3A, 1).  Remainder of arch 
vessels are 
unremarkable.  The aorta is normal in caliber without dissection 
or aneurysm.  There is diffuse severe atherosclerotic disease.  
Although not tailored for assessment of pulmonary embolism, 
there are no large filling defects to suggest central pulmonary 
embolism.  The celiac trunk is patent.  The hepatic arterial 
anatomy is conventional.  There is high-grade narrowing of SMA 
origin with patent distal vessel.  The left renal arterial 
origin appears narrowed; however, distally, the left renal 
artery is opacified.  The right renal artery appears patent.  No 
inferior mesenteric artery is visualized. 
  
Patient is status post aortobiliac stent grafting.  Distal to 
the renal 
arterial origins, there is complete thrombosis of the aorta, 
with thrombus 
extending to the level of distal common iliac arteries.  
Bilateral total knee arthroplasty generates considerable metal 
streak artifacts, limiting below assessment.  Multiple soft 
tissue ulcers are seen along bilateral lower extremities. 
  
RIGHT LOWER EXTREMITY:  On the right, there is reconstitution of 
flow in the distal right common iliac artery and external and 
internal iliac arteries via the inferior epigastric and 
circumflex iliac arteries.  There is minimal trickle flow in the 
common femoral artery and proximal superficial femoral artery, 
which attenuates within the mid superficial femoral artery.  
From the mid superficial femoral artery distally, there is 
complete non-opacification of distal arterial branches including 
trifurcation of anterior and posterior tibial and peroneal 
arteries, which is likely related to slow flow, though high 
grade  obstruction proximally is not excluded. 
  
LEFT LOWER EXTREMITY: On the left, there is similarly 
reconstitution of the distal common iliac artery and 
opacification of the internal and external iliac arteries by 
retrograde filling via inferior epigastric and circumflex iliac 
arteries.  Trickle flow is seen in the common femoral and 
proximal superficial femoral arteries.  From the level of mid 
superficial femoral artery distally, there is complete 
non-opacification of arterial branches, including trifurcation 
into the anterior and posterior tibial and peroneal arteries to 
the level of the ankle. This is likely related to slow flow, and 
less likely due to proximal occlusion.  Clips are seen in the 
left groin.  No underlying vascular stent or graft is noted. 
  
BONE WINDOW:  There is diffuse osseous demineralization.  There 
is high-grade L1 wedge compression deformity with greater than 
60% loss of height.  Severe discogenic osteoarthritis is present 
at L4-L5 with endplate sclerosis and vacuum phenomenon.  A large 
expansile lytic lesion within the left ischial tuberosity is 
incompletely assessed and could be correlated with prior exam 
and clinical history.  Patient is status post bilateral total 
hip arthroplasty and bilateral total knee arthroplasty with 
hardware grossly in expected locations. 
  
IMPRESSION: 
1.  Complete occlusion of the infrarenal aorta with 
non-opacification of 
proximal common iliac arteries.  Bilateral distal common iliac 
arterial 
reconstitution via circumflex iliac and inferior epigastric 
arteries, 
opacifying proximal superficial femoral arteries.  From the mid 
superficial femoral arteries on, there is complete 
non-opacification bilaterally, most likely due to slow flow 
though a high grade occlusion cannot be excluded. 
2.  Diffuse severe atherosclerotic disease, coronary arterial 
disease, 
biatrial enlargement.    
3.  Moderate right and small left pleural effusions with 
compressive 
atelectasis.  Right lower lobe aspiration. 
4.  Hypoperfused left kidney with left renal infarcts, and 
possible right 
inferior pole renal infarct. 
5.  Severe biatrial cardiomegaly and diffuse severe 
atherosclerotic disease. 
6.  Heterogeneous thyroid gland with possible subcentimeter 
hypodensities, 
which could be assessed by ultrasound if not previously 
performed. 
7.  Left ischial expansile lytic lesion of unclear source with 
mediastinal 
adenopathy.  Recommend correlation with prior imaging and 
clinical history. 
8.  Bilateral lower extremity ulcerations. 
 

___   
arterial duplex 

IMPRESSION:  Severely diminished flow in the left subclavian, 
axillary, 
brachial, radial and ulnar arteries suggesting proximal left 
subclavian 
stenosis. 

___ CTA
1.  No pulmonary embolism. 
  
2.  Patent aortobiliac endograft.  The distal end of the left 
external iliac stent and junction with the left common femoral 
graft is not adequately evaluated due to streak artifact from 
the adjacent hip prosthesis. High grade stenosis of the proximal 
right common femoral artery. Unchanged right internal iliac and 
left profunda femoris arterial occlusion. 
  
3. Unchanged high-grade stenosis of the superior mesenteric 
artery with no 
evidence of bowel ischemia. 
  
4.  Right lower lobe ground-glass opacity with secretions at the 
right lower lobe bronchi, could represent a small amount of 
aspiration. Moderate left and small right pleural effusion with 
associated atelectasis. 

___ CT
1. Contrast leak to external body surface from previous PEG 
site. No 
intra-abdominal contrast leak to suggest visceral perforation. 
2. Stable b/l pleural effusions with punctate old hemorrhage. 
3. Rim enhancing fluid collection anterior to R iliacus reduced 
in size. 
4. Improvement in intra-abdominal free air. 

 
Brief Hospital Course:
Ms. ___ was transferred to ___ on ___ from an OSH 
for lower extremity pain where she was found to have b/l 
pulseless lower extremities. She was found to have an occlusive 
thrombus in her previously placed endovascular stent-graft.  She 
was heparized and emergently taken to the OR for thrombectomy, 
bi-iliac stenting, resection of L CFA aneurysm with PTFE 
interposition grafts and b/l ___ fasciotomies.  she was initially 
transferred to the CVICU.  On POD 1 she was noted to have a 
painful dusky left hand.  Arterial duplex demonstrated a likely 
chronic subclavian stenosis.  Nitropaste was applied without 
improvement, so on POD2 she underwent angioplasy and steting of 
her L subclavian artery with improvement in her blood flow.  She 
was started on plavix in addition to her heparin gtt.  She was 
continued on antibiotics and on POD___/4 she underwent debridement 
of her R leg and heel and was noted to have extensive 
necrotic/nonviable muscle. Lather that day she became 
hypotensive requiring pressors and was noted to have an altered 
mental status.  A TTE was performed showing a large mobile right 
atrial thrombus and loculated pericardial effusion with 
tamponade.  She underwent an emergent pericardial window on POD 
___/.  There was concern at this point for HITT so she was 
changed to bivalrudin, but her HITT antibody was negative and 
she was replaced on heparin.  on POD ___ she underwent 
guillotine right AKA.  She was weaned off pressors, eventually 
extubated and started on tube feeds by NG tube, and was 
transferred to the VICU with VAC placement over her R AKA site.  
On POD ___ she underwent closure of her R AKA site, 
however on POD ___ her R AKA site was noted to be 
dehisced and it was opened and a VAC replaced.  During this time 
she underwent repeated speech and swallow evals without success, 
she was, however transitioned to coumadin and NG tube meds.  On 
POD ___ she suffered PEA arrest x 2 with return of 
spontaneous circulation.  She was reintubated and transferred to 
the CVICU.  A CTA torso at this time showed no pulmonary 
embolism, but did show a high grade stenosis of her SMA.  On POD 
___ she underwent SMA stenting.  On that same day she 
suffered from recurrent episodes of VTach, and was transiently 
placed on a lidocaine gtt after consult with electrophysiology.  
By POD ___ she was extubated.  She appeared to be 
recovering well at this point and was readvanced to goal TF and 
worked with physical therapy.  On POD ___ she 
underwent PEG placement by the ACS service.  The following day 
she had her staples removed from her initial operation and her 
antibiotics were stopped.  On POD ___ she had a 
respiratory arrest and became severely hypoxemic.  She was 
reintubated and underwent bronchoscopy showing mucous plugging 
and very friable and hyperemic tracheal and bronchial mucosa.  
The following day she became hypotensive, transiently requiring 
pressors and a BAL was performed showing pseudomonas, and she 
was noted to have cellulitis of her LLE and she was restarted on 
antibiotics.  She improved and was transiently weaned to PSV, 
however due to concern over her multiple cardiac and respiratory 
arrests and her multiple intubations, she underwent tracheostomy 
placement by ACS on POD ___.  Two days later (POD 
___ her PEG tube became dislodged and fell out. 
 A CT abdomen was performed and she was noted to have continued 
free air, but no extravasation of contrast.  However, since her 
PEG tract was not matured she returned to the operating room for 
exploratory laparotomy, closure gastrostomy, and placement of 
jejunal feeding tube.  The following day she had a PICC line 
placed and had her last central line removed.  She was doing 
well on trach mask until POD ___ when she 
spontaneously began to have brisk active bright red blood from 
trach and around her trach site.  Due to concern for 
tracheo-innominate fistula, her trach was removed and she was 
reintubated and taken emergently to the OR by thoracic surgery 
for neck exploration, where she was found to have arterial 
bleeding from her thyroid.  This was ligated and her trach was 
replaced.  However, that evening, she suffered from a VFib 
arrest and was unable to be resuscitated.
 
Medications on Admission:
MEDICATIONS: 
alendronate 70 qweek, digoxin 150', flonase'', lasix 40'',
metoprolol 100''', omeprazole 20', pravastatin 10', aldactone
25', albuterol, tiotropium 18mcg', apap, maalox, vit C, 
docusate,
vit D, Ca, senna, docusate, ferrous sulfate, mucinex, magOH, 
MVI,
pilocarpine ophthalmic 2% 2 drops'', prednisolone ophthalmic
1%'', florastore, zolpidem 5 prn

 
Discharge Medications:
Expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Aortic Graft Thrombus
Left subclavian artery stenosis
decubitus ulcers / stage 4 on heel / stage 3 on right post calf 
/ both present on admission 
Ischemic Right Leg s/p AKA
SMA stenosis
Pericardial effusion
respiratory failure
 
Discharge Condition:
expired.
 
Discharge Instructions:
Expired
 
Followup Instructions:
___